US06432957B1
Synthesis of N-(9-fluorenylmethoxycarbonyl)-L-isoleucyl-N-(benzyl)glycine ethyl ester
N-(9-Fluorenylmethoxycarbonyl)-L-isoleucine (1.36 g) and N-(benzyl)glycine ethyl ester (770 mg) were reacted in the same manner as in Preparation Example 52 to obtain the title compound.

reactant | N-(9-Fluorenylmethoxycarbonyl)-L-isoleucine | 1.36 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C21H23NO4
reactant | N-(benzyl)glycine ethyl ester | 770 mg | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
product | N-(9-fluorenylmethoxycarbonyl)-L-isoleucyl-N-(benzyl)glycine ethyl ester | C(C)OC(CN(CC1=CC=CC=C1)C([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)[C@@H](C)CC)=O)=O | C32H36N2O5
